US04165372
A 4.2 g sample of 6-carbomethoxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine is slurried in 25 ml of acetone and 0.7 g (0.016 mol, 10% excess) of ethylene oxide is added. The mixture is placed in a pressure bottle and stirred at ambient temperature for about 40 hours. The reaction mixture is then heated to 60°-80° for 30 minutes, cooled and filtered. Concentration of the filtrate gives a solid which is taken up in ethyl acetate and reprecipitated with ether. The solid thus obtained is dissolved in ethanol and treated with ethereal hydrogen chloride to give 6-carbomethoxy-7,8-dihydroxy-3-(2-hydroxyethyl)-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 6-carbomethoxy-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(=O)(OC)C1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)O)O | C18H19NO4
reactant | ethylene oxide | 0.016 mol, 0.7 g | C1CO1 | C2H4O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 6-carbomethoxy-7,8-dihydroxy-3-(2-hydroxyethyl)-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.C(=O)(OC)C1=C(C(=CC=2C(CN(CCC21)CCO)C2=CC=CC=C2)O)O | InChI=1S/C20H23NO5.ClH/c1-26-20(25)18-14-7-8-21(9-10-22)12-16(13-5-3-2-4-6-13)15(14)11-17(23)19(18)24;/h2-6,11,16,22-24H,7-10,12H2,1H3;1H
